US05206240
1-(2-(4-Aminophenyl)ethyl)spiro(piperidine-4,6'-(6H)-thieno[2,3-b]thiopyran)-4'(5'H)-one dihydrochloride hemihydrate
A solution of 1.1 g (2.8 mmoles) of 1-(2-(p-nitrophenyl)ethyl)spiro(piperidine-4,6'-(6H)-thieno-[2,3-b]thiopyran)-4'(5'H)-one in 15 mL acetic acid and 20 mL H2O was treated with 15 mL of a solution of 15% TiCl3 in 20% HCl. The dark purple reaction mixture was stirred at room temperature for 45 minutes and poured into 200 mL water. The pH was adjusted to 9 with 2N NaOH and saturated sodium bicarbonate. The aqueous mixture was extracted several times with ethyl acetate. The combined organics were dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 955 mg. A small amount was treated with excess ethanolic HCl and the hydrochloride was crystallized from ethanol to give 55 mg of product, m.p. 240° C.

reactant | 1-(2-(p-nitrophenyl)ethyl)spiro(piperidine-4,6'-(6H)-thieno-[2,3-b]thiopyran)-4'(5'H)-one | 2.8 mmoles, 1.1 g | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCC2(CC(C3=C(S2)SC=C3)=O)CC1 | C19H20N2O3S2
reactant | NaOH | 2N | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 20 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 1-(2-(4-Aminophenyl)ethyl)spiro(piperidine-4,6'-(6H)-thieno[2,3-b]thiopyran)-4'(5'H)-one dihydrochloride hemihydrate | 55 mg | O.Cl.Cl.NC1=CC=C(C=C1)CCN1CCC2(CC(C3=C(S2)SC=C3)=O)CC1.NC1=CC=C(C=C1)CCN1CCC3(CC(C2=C(S3)SC=C2)=O)CC1.Cl.Cl | InChI=1S/2C19H22N2OS2.4ClH.H2O/c2*20-15-3-1-14(2-4-15)5-9-21-10-7-19(8-11-21)13-17(22)16-6-12-23-18(16)24-19;;;;;/h2*1-4,6,12H,5,7-11,13,20H2;4*1H;1H2
